US07429565B2
{[6-(4-Hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-4-methyl-hex-4-enoylamino]-methyl}-phosphonic acid
To a solution of ({6-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-4-methyl-hex-4-enoylamino}-methyl)-phosphonic acid diethyl ester (40 mg, 0.07 mmol) in acetonitrile (1 mL) was added TMSBr (91 μL, 0.7 mmol) followed by 2,6-lutidine (81.5 μL, 0.7 mmol). The reaction was allowed to proceed overnight when it was completed as judged by LCMS. The reaction mixture was quenched with MeOH and concentrated to dryness. The residue was purified by preparative reverse-phase HPLC to afford 2.6 mg (9%) of desired product as a white solid. 1H NMR (300 MHz, CD3OD) δ 1.67 (s, 3H), 2.17 (m, 5H), 2.30-2.46 (m, 2H), 2.80-2.86 (m, 2H), 3.55 (m, 2H), 3.82 (s, 3H), 5.26 (s, 3H) ppm; 31p (121.4 MHz, CD3OD) δ 10.27 ppm; MS (m/z) 412 [M−H]−, 414 [M+H]+.

reactant | ({6-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-4-methyl-hex-4-enoylamino}-methyl)-phosphonic acid diethyl ester | 0.07 mmol, 40 mg | C(C)OP(OCC)(=O)CNC(CCC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)OCC[Si](C)(C)C)C)=O | C27H44NO8PSi
reactant | TMSBr | 0.7 mmol, 91 μL | C[Si](C)(C)Br | C3H9BrSi
reactant | 2,6-lutidine | 0.7 mmol, 81.5 μL | N1=C(C=CC=C1C)C | C7H9N
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | {[6-(4-Hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-4-methyl-hex-4-enoylamino]-methyl}-phosphonic acid | 2.6 mg, 9% | OC1=C2C(OCC2=C(C(=C1CC=C(CCC(=O)NCP(O)(O)=O)C)OC)C)=O | C18H24NO8P
